US07485283B2
Synthesis of 7-bromo-3,3-dimethyl-chroman-4-ol
To a cooled (0° C.) solution of 7-bromo-3,3-dimethyl-chroman-4-one (1.5 g, 5.91 mmol) in methanol (17 mL) was added potassium borohydride (0.351 g, 6.5 mmol). After completion of addition the reaction stirred at room temperature for 2 hours and was then quenched with 2M HCl (aq.). The aqueous layer was extracted with ethyl acetate (3×) The combined organic layers were dried over sodium sulfate, filtered, and concentrated to yield an off-white solid, which was used in the next step without further purification.

reactant | 7-bromo-3,3-dimethyl-chroman-4-one | 5.91 mmol, 1.5 g | BrC1=CC=C2C(C(COC2=C1)(C)C)=O | C11H11BrO2
reactant | potassium borohydride | 6.5 mmol, 0.351 g | [BH4-].[K+]
solvent | methanol | 17 mL | CO | CH4O
product | 7-bromo-3,3-dimethyl-chroman-4-ol | BrC1=CC=C2C(C(COC2=C1)(C)C)O | C11H13BrO2
